US06100423
To a suspension of 3,5-dibromosalicylaldehyde (100 g, 357 mmol) in acetic anhydride (164.8 mL, 1.8 mol) was added triethylamine (45 mL, 375 mmol). The reaction solution was heated overnight at reflux under argon. The solution was cooled to room temperature and a solid mass formed. The dark brown reaction mixture was washed with hot hexanes (3×300 mL) and aqueous saturated sodium bicarbonate. The resulting solid was dissolved in EtOAc (2 L) and washed with water. The organic layer was dried (sodium sulfate) and concentrated to give a brown solid that was collected by filtration. The solid was dried in vacuo to give substantially pure 6,8-dibromocoumarin (94.2 g, 87% yield).

reactant | 3,5-dibromosalicylaldehyde | 357 mmol, 100 g | BrC1=C(C(C=O)=CC(=C1)Br)O | C7H4Br2O2
reactant | acetic anhydride | 1.8 mol, 164.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 375 mmol, 45 mL | C(C)N(CC)CC | C6H15N
product | 6,8-dibromocoumarin | 94.2 g, 87% yield | BrC=1C=C2C=CC(OC2=C(C1)Br)=O | C9H4Br2O2
